US04129700
1,3-Dimethyl-3-(N-cyclohexyl-carbamoylperoxy)butyl N-cyclohexylcarbamate (C-V)
A mixture of 18.7 g. (0.15 mole) of cyclohexyl isocyanate, 6.7 g. (0.05 mole) of 1,3-dimethyl-3-hydroperoxybutyl alcohol and 3 drops of triethylamine was stirred for 5 days at ambient temperature. The reaction vessel was protected with a calcium chloride tube to keep out moisture. Within 2 days, a solid began to appear, and after the 5 day stirring period the reaction mixture was stripped in vacuo. The residue was slurried in 100 ml of ether and filtered. The filter cake was washed with an additional 30 ml of ether and air dried. A total of 7.5 grams of a colorless solid was obtained.

reactant | cyclohexyl isocyanate | 0.15 mole | C1(CCCCC1)N=C=O | C7H11NO
reactant | 1,3-dimethyl-3-hydroperoxybutyl alcohol | 0.05 mole | CC(CC(C)(OO)C)O | C6H14O3
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1,3-Dimethyl-3-(N-cyclohexyl-carbamoylperoxy)butyl N-cyclohexylcarbamate | 7.5 grams | C1(CCCCC1)NC(OC(CC(C)(OOC(NC1CCCCC1)=O)C)C)=O | C20H36N2O5
